US04743685
(C) 1-(Chloromethyl)-1,4-dihydro-5-(phenylmethoxy)4-pyridinone, hydrochloride
A suspension of 1,4-dihydro-2-(hydroxymethyl)5-(phenylmethoxy)-4-pyridinone (3 g, 12.99 mmole) in chloroform (15 ml) was cooled to 0° C. under argon and treated with thionyl chloride (6.1 ml, 83.62 mmole). Within several minutes, a homogeneous solution was obtained. After stirring an additional 5 minutes, a cream colored solid precipitated. The cooling bath was removed and the mixture was heated at reflux for 45 minutes. The mixture was cooled to 0° C. and the white suspended material was filtered, washed with chloroform and hexane and dried in vacuo. The yield of the title compound was 3.65 g.

reactant | 1,4-dihydro-2-(hydroxymethyl)5-(phenylmethoxy)-4-pyridinone | 12.99 mmole, 3 g | OCC=1NC=C(C(C1)=O)OCC1=CC=CC=C1 | C13H13NO3
reactant | thionyl chloride | 83.62 mmole, 6.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(Chloromethyl)-1,4-dihydro-5-(phenylmethoxy)4-pyridinone, hydrochloride | Cl.ClCN1C=CC(C(=C1)OCC1=CC=CC=C1)=O | InChI=1S/C13H12ClNO2.ClH/c14-10-15-7-6-12(16)13(8-15)17-9-11-4-2-1-3-5-11;/h1-8H,9-10H2;1H
